US06939928B1
(3) Synthesis of 2-(3-(1-methyl-1-cyclohexyl)cyclopentadienyl)-2-(3,6-di-tert-butylfluorenyl)propane
To a solution of 2.64 g (9.5 mmol) of 3,6-di-tert-butylfluorene in 45 ml of THF, 6.4 ml (10.4 mmol) of a hexane solution of n-butyllithium was dropwise added in a nitrogen atmosphere with ice cooling, followed by stirring at room temperature for one night. To the resulting red solution, a solution of 2.00 g (9.9 mmol) of 3-(1-methyl-1-cyclohexyl)-6,6-dimethylfulvene in 30 ml of THF was further dropwise added in a nitrogen atmosphere with ice cooling, followed by stirring at room temperature for 3 days. After the reaction solution was diluted with 100 ml of ether, 50 ml of water was added. The separated organic phase was washed with water and a saturated saline solution, then dried over magnesium sulfate and filtered. From the filtrate, the solvent was removed under reduced pressure to obtain a liquid. The liquid was isolated and purified by column chromatography (silica gel, developing solvent: hexane) to obtain 1.96 g (4.08 mmol) of a white solid (yield: 43%). The analyzed values are given below.

reactant | 3,6-di-tert-butylfluorene | 9.5 mmol, 2.64 g | C(C)(C)(C)C=1C=CC=2CC3=CC=C(C=C3C2C1)C(C)(C)C | C21H26
reactant | hexane | 10.4 mmol, 6.4 ml | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-(1-methyl-1-cyclohexyl)-6,6-dimethylfulvene | 9.9 mmol, 2.00 g | CC1(CCCCC1)C=1C=CC(C1)=C(C)C | C15H22
solvent | THF | 45 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | water | 50 ml | O | H2O
product | 2-(3-(1-methyl-1-cyclohexyl)cyclopentadienyl)-2-(3,6-di-tert-butylfluorenyl)propane | 4.08 mmol, 1.96 g, yield: 43% | CC1(CCCCC1)C1=CC(C=C1)C(C)(C)C1=CC(=CC=2C3=CC(=CC=C3CC12)C(C)(C)C)C(C)(C)C | C36H48
